US04440779
Ethyl 1,4,5,10-tetrahydro-7-chloro-3-ethoxycarbonyl-1-methyl-10-oxo-benzocyclohepta[1,2-b]-pyrrole-2-acetate (7.87 g, 19.5 mmol) is suspended in ethanol (20 ml) and is heated at reflux. To the resulting mixture is added 2.5 N aqueous sodium hydroxide (20 ml, 50 mmol). The reaction is heated at reflux with stirring for 1 hour after it becomes homogeneous. The solution is cooled and diluted with ice water (150 ml), then acidified to pH 2 with 6 N aqueous HCl. The resulting precipitate is filtered and dried in vacuo to give 5.06 g (75%) of 1,4,5,10-tetrahydro-7-chloro-3-hydroxy-carbonyl-1-methyl-10-oxobenzocyclohepta[1,2-b]pyrrole-2-acetic acid.

reactant | Ethyl 1,4,5,10-tetrahydro-7-chloro-3-ethoxycarbonyl-1-methyl-10-oxo-benzocyclohepta[1,2-b]-pyrrole-2-acetate | 19.5 mmol, 7.87 g | ClC1=CC2=C(C(C=C1)=O)C=1N(C(=C(C1CC2)C(=O)OCC)CC(=O)OCC)C | C21H22ClNO5
reactant | sodium hydroxide | 50 mmol, 2.5 N, 20 ml | [OH-].[Na+]
reactant | HCl | 6 N | Cl | ClH
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | 1,4,5,10-tetrahydro-7-chloro-3-hydroxy-carbonyl-1-methyl-10-oxobenzocyclohepta[1,2-b]pyrrole-2-acetic acid | 5.06 g, 75% | ClC1=CC2=C(C(C=C1)=O)C=1N(C(=C(C1C(C2)=C=O)O)CC(=O)O)C | C17H12ClNO5
